US09428528B2
Step 1 Preparation of 3-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)-3-oxopropanenitrile
To a mixture of (4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyl-oxazolidine (3.5 g, 10.50 mmol), 2-cyanoacetic acid (1.34 g, 15.8 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (6.11 g, 15.8 mmol) in dimethylformamide (21 mL) is added triethylamine (2.12 g, 21 mmol) and stirred at room temperature for overnight. The mixture is partitioned between ethylacetate and brine. The organic solution is separated, dried over MgSO4, filtered and evaporated to give a yellow residue, which is purified on silica gel column using heptane to neat ethylacetate to give the title compound (2.75 g): 1HNMR (DMSO-d6): 1.48 (s, 3H), 1.53 (s, 3H), 3.96-4.24 (m, 2H), 4.47-4.84 (m, 3H), 5.11 (d, 1H), 7.31 (d, 2H), 7.77 (d, 2H).

reactant | (4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyl-oxazolidine | 10.50 mmol, 3.5 g | FC[C@H]1NC(O[C@@H]1C1=CC=C(C=C1)I)(C)C | C12H15FINO
reactant | 2-cyanoacetic acid | 15.8 mmol, 1.34 g | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 15.8 mmol, 6.11 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 21 mmol, 2.12 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
product | 3-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)-3-oxopropanenitrile | 2.75 g | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)I)(C)C)C(CC#N)=O | C15H16FIN2O2
